US08008321B2
Methyl 5-({6-[(tert-butoxycarbonyl)amino]imidazo[1,5-a]pyridin-3-yl}carbonyl)-2-nitrobenzoate
0.55 ml (3.96 mmol) of triethylamine and 1.07 ml of tertbutanol, followed by 0.31 ml (1.40 mmol) of diphenylphosphoryl azide, are added to 430 mg (1.16 mmol) of 3-[3-(methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylic acid in 20 ml of toluene. The reaction medium is heated at 110° C. for 3 hours and then cooled to ambient temperature. Water and a saturated aqueous sodium bicarbonate solution are added and then the extraction is carried out with ethyl acetate. The organic phase is separated by settling, washed with a saturated aqueous sodium chloride solution, then dried over sodium sulfate and concentrated under reduced pressure. The product is purified by column chromatography on silica gel, elution being carried out with a mixture of dichloromethane and methanol (98/2). 480 mg of an orange-colored solid are obtained. Melting point: 182° C.; 1H NMR (d6-DMSO): 1.55 (9H, s), 3.92 (3H, s), 7.45 (1H, d), 7.90 (1H, s), 7.99 (1H, d), 8.24 (1H, d), 8.67 (1H, d), 8.76 (1H, s), 9.89 (1H, s)

reactant | triethylamine | 3.96 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.40 mmol, 0.31 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3-[3-(methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylic acid | 1.16 mmol, 430 mg | COC(=O)C=1C=C(C(=O)C2=NC=C3N2C=C(C=C3)C(=O)O)C=CC1[N+](=O)[O-] | C17H11N3O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
solvent | tertbutanol | 1.07 ml | C(C)(C)(C)O | C4H10O
product | Methyl 5-({6-[(tert-butoxycarbonyl)amino]imidazo[1,5-a]pyridin-3-yl}carbonyl)-2-nitrobenzoate | 480 mg | C(C)(C)(C)OC(=O)NC=1C=CC=2N(C1)C(=NC2)C(=O)C=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-] | C21H20N4O7
